US04914240
A solution of 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-benzyloxy-4-aza-octane (9.5 g, 17.1 mM) and trimethylsilyl iodide (2.7 mL, 10% excess) in dry dichloromethane is stirred overnight at room temperature under nitrogen. Triethylamine (3 g) is added, and stirring is continued for 1 hour at room temperature. Following the addition of more dichloromethane, the reaction mixture is washed with 1N HCL (twice), aqueous NaHSO3 (twice), brine (twice), and dried (Na2SO4). The solvents are removed by evaporation to yield an oil. This oil is dissolved in methanol and 1 mL of a 9N solution of HCL in methanol is added. The mixture is evaporated and stripped twice with CCl4 to provide an oil, which upon scratching with ether/petroleum ether yields 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-hydroxy-4-aza-octane as slightly violet crystals: 6.8 g (85%).

reactant | 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-benzyloxy-4-aza-octane | 17.1 mM, 9.5 g | C1(C=2C(C(N1CCCN(CC(CCOCC1=CC=CC=C1)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C29H30F2N2O5S
reactant | trimethylsilyl iodide | 2.7 mL | C[Si](C)(C)I | C3H9ISi
reactant | Triethylamine | 3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-hydroxy-4-aza-octane | C1(C=2C(C(N1CCCN(CC(CCO)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C22H24F2N2O5S
